US04312994
4-Bromo-2-butanone ethylene ketal
A mixture of 75 g of 4-bromo-2-butanone, 40 g of ethylene glycol, 250 mg of p-toluenesulfonic acid acid and 500 ml of toluene is refluxed for about 4-6 hours under a Dean-Stark water trap. The mixture is cooled, poured into ethyl acetate and dilute potassium carbonate solution. The organic layer is separated, washed with water, dried over sodium sulfate, stripped of solvent and the residue is distilled under reduced pressure to give the title product.

reactant | 4-bromo-2-butanone | 75 g | BrCCC(C)=O | C4H7BrO
reactant | ethylene glycol | 40 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 250 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Bromo-2-butanone ethylene ketal | C1COC(C)(CCBr)O1 | C6H11BrO2
